US09353075B2
Step 3. Preparation of hexyl-N-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
Under nitrogen atmosphere at 0° C., to a stirred mixture of employing (2R,3S)-2-(hexoxycarbonylamino)-3-hydroxy-butanoic acid (0.27 g, 1.10 mmol) in dry CH2Cl2 (27 mL), Et3N (0.46 mL, 3.31 mmol) and subsequently TBTU (0.42 g, 1.32 mmol) were added. The mixture was left stirring 1 h at 0° C. and 15 h at rt. Upon full conversion of the starting material, the organics were removed under reduced pressure, and the resulting crude product absorbed over silica gel and purified by typical column chromatography, eluting with Cy:EtOAc (from 100:0 to 0:100) to afford the title compound (0.18 g, 73%), as white solid. [α]25D −25.1 (c 0.1, CHCl3). MS (ESI) m/z: 230 [M−H]+; (ESI) m/z: 228 [M−H]−. 1H NMR (DMSO-d6) δ 0.86 (t, J=6.9 Hz, 3H), 1.38-1.21 (m, 6H), 1.34 (d, J=6.4 Hz, 3H), 1.62-1.50 (m, 2H), 4.07-3.93 (m, 2H), 4.84 (dq, J=6.1, 6.4 Hz, 1H), 5.40 (dd, J=6.1, 9.3 Hz, 1H), 8.19 (d, J=9.3 Hz, 1H).

reactant | (2R,3S)-2-(hexoxycarbonylamino)-3-hydroxy-butanoic acid | 1.10 mmol, 0.27 g | C(CCCCC)OC(=O)N[C@@H](C(=O)O)[C@H](C)O | C11H21NO5
reactant | Et3N | 3.31 mmol, 0.46 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 1.32 mmol, 0.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 27 mL | C(Cl)Cl | CH2Cl2
product | hexyl-N-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.18 g, 73% | C(CCCCC)OC(N[C@@H]1[C@@H](OC1=O)C)=O | C11H19NO4
